US06518293B2
5-Dimethylaminomethylene-3-isopropyl-1-(4-methoxybenzyl)-imidazolidine-2,4-dione
To a solution of 100 mg of 5-dimethylaminomethylene-3-isopropylimidazolidine-2,4-dione in 2 ml of dimethylformamide was added 425 mg of sodium hydride (as a 60% dispersion in mineral oil). The mixture was stirred until evolution of hydrogen gas had ceased. The solution was then treated with 1.5 ml of 4-methoxybenzyl chloride and stirring continued overnight at rt. The mixture was partitioned between ethyl acetate and water and the organic layer dried, filtered and concentrated. The residue was purified by flash chromatography eluting with 1:1 ethyl acetate: haxane to give 85 mg of a colourless oil. 1H NMR (400 MHz, deuteriochloroform): δ=1.40 (6H, d, J=7 Hz), 3.02 (6H, s), 3.72 (3H, s), 4.38 (1H, septet, J=7 Hz), 4.60 (2H, s), 5.96 (1H, s), 6.80 (2H, d, J=8 Hz), 7.05 (2H, d, J=8 Hz).

reactant | 5-dimethylaminomethylene-3-isopropylimidazolidine-2,4-dione | 100 mg | CN(C)C=C1C(N(C(N1)=O)C(C)C)=O | C9H15N3O2
reactant | sodium hydride | 425 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-methoxybenzyl chloride | 1.5 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-Dimethylaminomethylene-3-isopropyl-1-(4-methoxybenzyl)-imidazolidine-2,4-dione | 85 mg | CN(C)C=C1C(N(C(N1CC1=CC=C(C=C1)OC)=O)C(C)C)=O | C17H23N3O3
